US07071216B2
A solution of the {4-[4-amino-3-(methylamino)phenoxy](2-pyridyl)}-N-methyl-carboxamide(1 eq) in methanol was treated with 4-bromophenylisothiocyanate (1 eq) and stirred at 60° C. for 2 hours. The reaction mixture was cooled down to room temperature and iodomethane (1 eq) was added and stirred overnight at 60° C. The reaction was concentrated and preparative chromatography gave (4-{2-[(4-bromophenyl)amino]-1-methylbenzimidazol-6-yloxy}-(2-pyridyl)-N-methylcarboxamide. MS: MH+=452.

reactant | {4-[4-amino-3-(methylamino)phenoxy](2-pyridyl)}-N-methyl-carboxamide | 1 eq | NC1=C(C=C(OC2=CC(=NC=C2)C(=O)NC)C=C1)NC | C14H16N4O2
reactant | 4-bromophenylisothiocyanate | 1 eq | BrC1=CC=C(C=C1)N=C=S | C7H4BrNS
reactant | iodomethane | 1 eq | IC | CH3I
solvent | methanol | CO | CH4O
product | 4-{2-[(4-bromophenyl)amino]-1-methylbenzimidazol-6-yloxy}-(2-pyridyl)-N-methylcarboxamide | BrC1=CC=C(C=C1)NC1=NC2=C(N1C)C=C(C=C2)OC2=CC(=NC=C2)C(=O)NC | C21H18BrN5O2
